US06544985B2
(2-Amino-4-cyano-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (4-cyano-2-nitro-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester (Example C25) (1.82 g, 5.48 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a pale brown solid (1.27 g, 77%).

reactant | (4-cyano-2-nitro-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester | 5.48 mmol, 1.82 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C#N)[N+](=O)[O-])=O | C16H20N4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-4-cyano-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C#N)N)=O | C16H22N4O2
